US08071584B2
5-[5-(1-Azetidinylmethyl)-3-thienyl]-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-7-carboxamide
5-bromo-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-7-carboxamide (0.040 g, 0.112 mmol) and 1-{[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thienyl]methyl}azetidine (0.035 g, 0.126 mmol, 1.1 eq) was dissolved in a 6:1 solution of 1,4 dioxane/water in a 20 mL microwave reaction vessel. Potassium carbonate (0.077 g, 0.560 mmol, 5 eq) was added and the solution was degassed with Argon. PdCl2(dppf) (0.014 g, 0.019 mmol) was added and the reaction was heated in a microwave at 100° C. for 20 min. Solution was passed through a StratoSphere SPE PL-Thiol MP SPE column to remove palladium and purified on Gilson preparative HPLC using Acetonitrile/Water with 0.1% TFA. The desired fractions were concentrated, giving 0.011 g (23%) of the title compound.

reactant | 5-bromo-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-7-carboxamide | 0.112 mmol, 0.040 g | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CS(CC1)(=O)=O | C13H13BrN2O3S
reactant | 1-{[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thienyl]methyl}azetidine | 0.126 mmol, 0.035 g, 1.1 eq | CC1(OB(OC1(C)C)C=1C=C(SC1)CN1CCC1)C | C14H22BNO2S
reactant | Potassium carbonate | 0.560 mmol, 0.077 g, 5 eq | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4 dioxane water | O1CCOCC1.O
catalyst | PdCl2(dppf) | 0.019 mmol, 0.014 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-[5-(1-Azetidinylmethyl)-3-thienyl]-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-7-carboxamide | 0.011 g, 23% | N1(CCC1)CC1=CC(=CS1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CS(CC1)(=O)=O | C21H23N3O3S2
